### PR TITLE
feat(SetTheory/Ordinal/Clubs): define club sets and prove basic properties

### PR DESCRIPTION
**Pull request by YnirPaz**
Create a file where club sets are defined and their basic properties are proven.

I also created a new recursion principle for ordinals, bounded recursion.

---

- [ ] depends on: #19189

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Clubs.lean
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:1]: We don't (usually) use plural in file names

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 1]
```diff
@@ -0,0 +1,243 @@
+/-
+Copyright (c) 2024 Nir Paz. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nir Paz
+-/
+import Mathlib.SetTheory.Cardinal.Cofinality
+
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:7]:
```suggestion
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 2]
```diff
@@ -0,0 +1,243 @@
...
+
+/-!
+# Club and stationary sets
+This file sets up the basic theory of clubs (closed and unbounded sets) and stationary sets.
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:11]:
```suggestion

This file sets up the basic theory of clubs (closed and unbounded sets) and stationary sets.
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 3]
```diff
@@ -0,0 +1,243 @@
...
+
+## Main definitions
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:13]:
```suggestion
## Main definitions

```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 4]
```diff
@@ -0,0 +1,243 @@
...
+* `IsClosed`: A set of ordinals is closed in `o` if all of its elements are
+  less than `o` and it contains all of its accumulation points below `o`.
+* `IsClub`: A set of ordinals is a club in `o` if it is closed in `o` and unbounded in `o`.
+
+## Main results
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:18]:
```suggestion
## Main results

```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 5]
```diff
@@ -0,0 +1,243 @@
...
+
+
+/-!
+# Club and stationary sets
+This file sets up the basic theory of clubs (closed and unbounded sets) and stationary sets.
+
+## Main definitions
+* `IsClosed`: A set of ordinals is closed in `o` if all of its elements are
+  less than `o` and it contains all of its accumulation points below `o`.
+* `IsClub`: A set of ordinals is a club in `o` if it is closed in `o` and unbounded in `o`.
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:16]: You need to fully qualify these (for doc-gen and clarity)
```suggestion
* `Ordinal.IsClosed`: A set of ordinals is closed in `o` if all of its elements are
  less than `o` and it contains all of its accumulation points below `o`.
* `Ordinal.IsClub`: A set of ordinals is a club in `o` if it is closed in `o` and unbounded in `o`.
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 6]
```diff
@@ -0,0 +1,243 @@
...
+noncomputable section
+
+open Classical Cardinal Set Order
+
+universe u
+
+namespace Ordinal
+
+/-- A set of ordinals is unbounded in an ordinal if it
+  is a subset of it and it is an unbounded set in it. -/
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:31]: Please don't indent docstrings by default
```suggestion
is a subset of it and it is an unbounded set in it. -/
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 7]
```diff
@@ -0,0 +1,243 @@
...
+
+/-- A positive ordinal is an accumulation point of a set of ordinals if there
+  are elements in the set arbitrarily close to the ordinal from below. -/
+def IsAcc (o : Ordinal) (S : Set Ordinal) : Prop :=
+  0 < o ∧ (∀ p < o, ∃ s ∈ S, s < o ∧ p < s)
+
+/-- A set of ordinals is closed in an ordinals if it is a subset of it
+  and it contains all of its accumulation points below the ordinal. -/
+def IsClosed (S : Set Ordinal) (o : Ordinal) : Prop :=
+  S ⊆ (Iio o) ∧ (∀ p < o, IsAcc p S → p ∈ S)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:43]: Unnecessary brackets
```suggestion
  S ⊆ Iio o ∧ ∀ p < o, IsAcc p S → p ∈ S
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 8]
```diff
@@ -0,0 +1,243 @@
...
+
+/-- A set of ordinals is unbounded in an ordinal if it
+  is a subset of it and it is an unbounded set in it. -/
+def IsUnbounded (S : Set Ordinal) (o : Ordinal) : Prop :=
+  S ⊆ (Iio o) ∧ (∀ p < o, ∃ s ∈ S, p < s)
+
+/-- A positive ordinal is an accumulation point of a set of ordinals if there
+  are elements in the set arbitrarily close to the ordinal from below. -/
+def IsAcc (o : Ordinal) (S : Set Ordinal) : Prop :=
+  0 < o ∧ (∀ p < o, ∃ s ∈ S, s < o ∧ p < s)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:38]:
```suggestion
  0 < o ∧ ∀ p < o, ∃ s ∈ S, s < o ∧ p < s
```

Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:38]: Similarly to `Nat`, prefer `≠ 0` to `0 <` on `Ordinal`
```suggestion
  o ≠ 0 ∧ (∀ p < o, ∃ s ∈ S, s < o ∧ p < s)
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 9]
```diff
@@ -0,0 +1,243 @@
...
+/-- A set of ordinals is closed in an ordinals if it is a subset of it
+  and it contains all of its accumulation points below the ordinal. -/
+def IsClosed (S : Set Ordinal) (o : Ordinal) : Prop :=
+  S ⊆ (Iio o) ∧ (∀ p < o, IsAcc p S → p ∈ S)
+
+/-- A set of ordinals is a club in an ordinal if it is closed and unbounded in it. -/
+def IsClub (S : Set Ordinal) (o : Ordinal) : Prop :=
+  IsClosed S o ∧ IsUnbounded S o
+
+theorem isAcc_of_subset {o : Ordinal} {S T : Set Ordinal} (h : S ⊆ T) (ho : o.IsAcc S) :
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:49]:
```suggestion
theorem IsAcc.subset {o : Ordinal} {S T : Set Ordinal} (h : S ⊆ T) (ho : o.IsAcc S) :
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 10]
```diff
@@ -0,0 +1,243 @@
...
+    o.IsAcc T := ⟨ho.1, fun p plto ↦ (ho.2 p plto).casesOn fun s hs ↦ ⟨s, h hs.1, hs.2⟩⟩
+
+theorem isLimit_of_isUnbounded {o : Ordinal} {U} (h : IsUnbounded U o)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:52]:
```suggestion
theorem IsUnbounded.isLimit {o : Ordinal} {U} (h : IsUnbounded U o)
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 11]
```diff
@@ -0,0 +1,243 @@
...
+    (ho : o ≠ 0) : IsLimit o := by
+  refine' isLimit_of_not_succ_of_ne_zero (fun ⟨x, hx⟩ ↦ _) ho
+  rcases h.2 x (hx ▸ lt_succ x) with ⟨p, hp⟩
+  exact (hx ▸ succ_le_iff.mpr hp.2).not_lt (h.1 hp.1)
+
+theorem inter_suffix_of_isUnbounded {o : Ordinal} {U} (hU : IsUnbounded U o) {p : Ordinal}
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:58]: "suffix" is an obscure term here. Also dot notation is available
```suggestion
theorem IsUnbounded.inter_Ioo_nonempty {o : Ordinal} {U} (hU : IsUnbounded U o) {p : Ordinal}
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 12]
```diff
@@ -0,0 +1,243 @@
...
+    (hp : p < o) : (U ∩ (Ioo p o)).Nonempty :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:59]:
```suggestion
    (hp : p < o) : (U ∩ Ioo p o).Nonempty :=
```

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 13]
```diff
@@ -0,0 +1,243 @@
...
+  (hU.2 p hp).casesOn (fun x ⟨xmemU, pltx⟩ ↦ ⟨x, xmemU, ⟨pltx, hU.1 xmemU⟩⟩)
+
+
+section ClubIntersection
+
+variable {o : Ordinal.{u}} {S : Set (Set Ordinal)}
+
+theorem isClosed_sInter_of_isClosed (hS : S.Nonempty) (h : ∀ C ∈ S, IsClosed C o) :
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:67]:
```suggestion
theorem IsClosed.sInter (hS : S.Nonempty) (h : ∀ C ∈ S, IsClosed C o) :
```
for *anonymous dot notation*

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 14]
```diff
@@ -0,0 +1,243 @@
...
+    IsClosed (⋂₀ S) o :=
+  ⟨fun s hs ↦ by
+    rcases hS with ⟨C, CmemS⟩
+    exact (h C CmemS).1 ((sInter_subset_of_mem CmemS) hs),
+  fun p plto pAcc ↦ by
+    rw [mem_sInter]
+    intro C CmemS
+    exact (h C CmemS).2 p plto (isAcc_of_subset (sInter_subset_of_mem CmemS) pAcc)⟩
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:75]:
```suggestion
    IsClosed (⋂₀ S) o where
  mp s hs := by
    rcases hS with ⟨C, CmemS⟩
    exact (h C CmemS).1 ((sInter_subset_of_mem CmemS) hs)
  mpr p plto pAcc := by
    rw [mem_sInter]
    intro C CmemS
    exact (h C CmemS).2 p plto (isAcc_of_subset (sInter_subset_of_mem CmemS) pAcc)
```
(personally, I think that's much nicer when the `⟨_, _⟩` would otherwise span several lines)

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 15]
```diff
@@ -0,0 +1,243 @@
...
+  rw [lt_bsup] at pltsup
+  rcases pltsup with ⟨i, hi, plt⟩
+  rcases h i hi with ⟨q, qmemC, qmemIoo⟩
+  use q; use qmemC
+  exact ⟨lt_of_lt_of_le qmemIoo.2 (le_bsup _ _ _), plt.trans qmemIoo.1⟩
+
+/--
+The intersection of less than `o.cof` clubs in `o` is a club in `o`.
+-/
+theorem isClub_sInter (hCof : ℵ₀ < o.cof) (hS : ∀ C ∈ S, IsClub C o) (hSemp : S.Nonempty)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:220]:
```suggestion
theorem IsClub.sInter (hCof : ℵ₀ < o.cof) (hS : ∀ C ∈ S, IsClub C o) (hSemp : S.Nonempty)
```

**Review by YaelDillies — COMMENTED** [review]
You provide `sInter` lemmas. Can we also have the `iInter` versions?

**Comment by zeramorphic** [comment]
A couple of thoughts about the structure of this PR:

`IsClosed s o` almost equivalent to `IsClosed s` for the topology on `Ordinal` defined in `Ordinal/Topology.lean`. If you define the topology `Preorder.topology` on `Set.Iio o`, the topological definition of closure agrees with yours. It might be better to define your lemmas in terms of the pre-existing definition of a closed set.

In fact, you can translate all of your new definitions into Mathlib's ones but ranging over `Iio o` rather than `Ordinal`: `IsUnbounded` -> `Set.Unbounded`, and `IsAcc` -> `Order.IsSuccLimit`. It might be worth looking at whether `IsAcc` agrees with `ClusterPt` or `AccPt` (or both?) with the preorder topology.

This isn't to say that your definitions are useless; I think they are important equivalent ways to say these ideas. But I'll defer to someone more experienced in how Mathlib works (pinging @YaelDillies) to determine what the correct spelling is.

**Comment by YaelDillies** [comment]
I think the question really is "Do you need to talk about ordinals strictly less than `o`, or elements of `o`?". In the former case, we need the definitions in this PR. In the latter, we might as well reuse the existing definitions

**Comment by YnirPaz** [comment]
@zeramorphic What's the practical benefit of using the topology definition? In theory it might give access to some API from mathlib, but in this case I don't see how anything beyond the very basic properties (like intersection of closed sets is closed) I already proved will ever be used when reasoning about these objects.

The more explicit definition is both (i) much closer to the one set theorists actually use (I've never seen topological reasoning used in this context), and (ii) very clearly corresponds to the "normal" mathematical definition.

I kinda think the topology version would just be a slightly obfuscated, slightly less practical definition for no real benefit, and would never be directly used in favor of the equivalent definitions I used here (I hope I'm not coming across too agressive, haha).

Your other comments look good, using `Set.Unbounded` might help with a few annoying proofs, so I'll try it (:

**Comment by YaelDillies** [comment]
> The more explicit definition is both (i) much closer to the one set theorists actually use (I've never seen topological reasoning used in this context), and (ii) very clearly corresponds to the "normal" mathematical definition.

I should mention that you don't need `A` to be *defined* as `B` for people to use `A` as `B`. You are also free to prove `A ↔ B`. Here this would eg mean replacing `IsOrdinal.IsClosed` by `IsClosed` and showing `IsClosed` is equivalent to what was previously the definition of `IsOrdinal.IsClosed`

**Comment by zeramorphic** [comment]
> I think the question really is "Do you need to talk about ordinals strictly less than `o`, or elements of `o`?". In the former case, we need the definitions in this PR. In the latter, we might as well reuse the existing definitions

I think this is a really important point. If we envision using clubs as plain old sets of ordinals, rather than inhabitants of `Set (Iio o)`, I think the definitions in the PR would be better.

**Comment by YnirPaz** [comment]
> > I think the question really is "Do you need to talk about ordinals strictly less than `o`, or elements of `o`?". In the former case, we need the definitions in this PR. In the latter, we might as well reuse the existing definitions
> 
> I think this is a really important point. If we envision using clubs as plain old sets of ordinals, rather than inhabitants of `Set (Iio o)`, I think the definitions in the PR would be better.

Then I think the current definitions are better. For example I'd want to intersect clubs/stationary sets with `Iio o`'s and ask if they are still clubs/stationary sets, and having all of them be of different types would be a mess.

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 16]
```diff
@@ -0,0 +1,243 @@
...
+  · subst hi'
+    exact this.resolve_left (pos_of_gt rltf0).ne.symm
+  · have rltfi := rltf0.trans <| hf.2.1 0 i omega_pos hi (Ordinal.pos_iff_ne_zero.mpr hi')
+    exact this.resolve_left (pos_of_gt rltfi).ne.symm
+
+/-- If between every 2 consecutive elements of an increasing `δ`-sequence
+  there is an element of `C`, and `δ` is a limit ordinal,
+  then the supremum of the sequence is an accumulation point of `C`. -/
+theorem isAcc_bsup_of_between {δ : Ordinal} (C : Set Ordinal) (δLim : δ.IsLimit)
+    (s : Π o < δ, Ordinal) (sInc : ∀ o, (h : o < δ) → s o h < s (o + 1) (δLim.succ_lt h))
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Clubs.lean:204]: I kind of defaulted to using `Π o < δ, Ordinal` because that's how fundamental sequences are defined, but `Iio δ` is probably better in many places (maybe including fundamental sequences, but that ship has sailed). I'll change it and work with `sup` instead of `bsup`.

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 17]
```diff
@@ -0,0 +1,243 @@
...
+Given a limit ordinal `o` and a property on pairs of ordinals `P`, such that
+for any `p < o` there is a `q < o` above `p` so that `P p q`, we can construct
+an increasing `ω`-sequence below `o` that satisfies `P` between every 2 consecutive elements.
+Additionaly, the sequence can begin arbitrarily high in `o`. That is, above any `r < o`.
+-/
+theorem exists_omega_seq_succ_prop (opos : 0 < o) {P : Ordinal → Ordinal → Prop}
+    (hP : ∀ p < o, ∃ q < o, (p < q ∧ P p q)) {r} (rlto : r < o) : ∃ f : Π p < ω, (Iio o),
+    (∀ i : Ordinal.{u}, (hi : i < ω) → P (f i hi) (f (i + 1) (omega_isLimit.2 i hi)))
+    ∧ (∀ i j, (hi : i < ω) → (hj : j < ω) → (i < j) → f i hi < f j hj)
+    ∧ r < f 0 omega_pos := by
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Clubs.lean:148]: I used `ω` because this is supposed to be used with theorems like `isAcc_bsup_of_between` that work with arbitrary limit ordinals, doing it with `ℕ` first is mostly an implementation detail.

**Comment by YnirPaz** [comment]
@alreadydone I changed things to work with `Iio` instead of `Π o <`, and now I actually think `Π o <` is better, because `Iio δ` is in a higher universe than `δ`. `Ordinal.sup` requires the range universe to be at least as high as the domain universe, but if the domain is `Iio ω` for example than we have to lift the output to universe `1`. With `Ordinal.bsup`, if we index with `Π o < ω`  then lean resolves with `ω : Ordinal.{0}`, and same thing when we index with any ordinal in the same universe as the range.

I pushed this not-done version, the problem starts at `isClub_sInter`. If we define `g` without lifting the output, we can't resolve the universe contraints of `sup g`, because `u` could be `0`. Then everything after that would have to deal with many lifts. Unless I'm missing something this makes `sup` much harder to work with than `bsup`, and I don't think its worth it. What's more, we should keep things working with the same definitions everywhere, so I would rather not use `Iio` for the domain of a sequence anywhere.
If that's okay with you I will revert these changes.

**Comment by alreadydone** [comment]
Oh, I missed that there are existing APIs about "bfamilies" of the form `(a : Ordinal.{u}) → a < o → α`. I agree that those APIs make it convenient to work with such families rather than `Iio o → α`, so I won't insist you that change it.

On the other hand, you should be able to use `sSup (Set.range f)` (where `f` is a family) to avoid difficulties around universes. For `sSup` behaves as expected you just need it's range is bounded above, and there are lemmas like [Ordinal.bddAbove_iff_small](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Arithmetic.html#Ordinal.bddAbove_iff_small) and [Cardinal.small_iff_lift_mk_lt_univ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Basic.html#Cardinal.small_iff_lift_mk_lt_univ) that could be useful.

File: Mathlib/SetTheory/Ordinal/Clubs.lean [hunk 18]
```diff
@@ -0,0 +1,241 @@
...
+  fun p plto pAcc ↦ by
+    rw [mem_sInter]
+    intro C CmemS
+    exact (h C CmemS).2 p plto (isAcc_of_subset (sInter_subset_of_mem CmemS) pAcc)⟩
+
+/-- Given less than `o.cof` unbounded sets in `o` and some `q < o`, there is a `q < p < o`
+  such that `Ioo q p` contains an element of every unbounded set. -/
+theorem exists_above_of_lt_cof (p : Iio o) (hSemp : Nonempty S) --change!
+    (hSunb : ∀ U ∈ S, IsUnbounded U o) (hScard : #S < Cardinal.lift.{u + 1, u} o.cof) :
+    ∃ q : Iio o, p < q ∧ (∀ U ∈ S, (U ∩ Ioo p q).Nonempty) := by
```
Comment (alreadydone) [inline Mathlib/SetTheory/Ordinal/Clubs.lean:81]: This is the proof that I think can benefit from switching from `Ordinal.sup` to `sSup`.

File: Mathlib/SetTheory/Ordinal/Clubs.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/SetTheory/Ordinal/Clubs.lean]: [Ordinal.lift_type_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Basic.html#Ordinal.lift_type_eq) or Ordinal.type_eq and (the definition) [Ordinal.type_nat_lt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Basic.html#Ordinal.type_nat_lt) will be useful to construct a RelIso between `ℕ` and `Iio ω`. To compute the `type` of `Iio o` we may extract from [the proof of `small_Iio`](https://github.com/leanprover-community/mathlib4/blob/04e23488cdc6c40e3480f98100698e0566c1c192/Mathlib/SetTheory/Ordinal/Arithmetic.lean#L1169-L1178).

File: Mathlib/SetTheory/Ordinal/Clubs.lean (hunk 13 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Clubs.lean:67]: I can change the name, but there is no input of type `IsClosed`, so how can dot notation be used? Maybe I don't understand exactly what anonymous means here.

Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Clubs.lean:67]: It's a new cousin of your usual beloved dot notation. It lets you write `.bar : Foo` to mean `Foo.bar : Foo`. The point being that, when the expected type is known to be `Foo`, `.bar` is interpreted as `Foo.bar`.

File: Mathlib/SetTheory/Ordinal/Clubs.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Clubs.lean]: I defined the RelIso, since this construction is already done I'll keep it as it is, but we have it for the future.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 19]
```diff
@@ -335,6 +338,60 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+@[simp]
+theorem boundedLimitRec_limit {l : Ordinal} (lLim : l.IsLimit) {C} (o oltl H₁ H₂ H₃ oLim) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ o oltl = H₃ o oltl oLim (fun x hx ↦
+    @boundedLimitRec l lLim C H₁ H₂ H₃ x (hx.trans oltl)) := by
+  simp_all only [boundedLimitRec, eq_mpr_eq_cast, eq_mp_eq_cast, limitRecOn_limit,
+    dite_true, cast_cast, cast_eq]
+
+/-- Bounded recursion on the ordinals with a constant return type. Similar to `boundedLimitRec`,
+  but with a constant motive function. Useful for defining function to ordinals. -/
+def boundedLimitRec' {α : Sort*} {l : Ordinal} (lLim : l.IsLimit) (H₁ : α)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:373]: Is this really useful? 20 extra lines of API to save on a few characters doesn't seem like a good tradeoff to me.

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 20]
```diff
@@ -1213,6 +1216,42 @@ theorem enum_zero_eq_bot {o : Ordinal} (ho : 0 < o) :
...
+    · convert this.1.3
+      exact (iff_true_right this.1.3).mpr fun x ↦ congrArg ULift.up (this.1.3 x.down)
+  have aux : IsWellOrder (ULift.{u + 1, u} (Quotient.out o).α) (· < ·) := by
+    have : o.out.r ≃r fun x y : ULift.{u + 1, u} o.out.α ↦ x < y :=
+      ⟨⟨fun x ↦ ⟨x⟩, by aesop, congrFun rfl, congrFun rfl⟩, by aesop⟩
+    exact this.isWellOrder
+  convert this.symm.ordinal_type_eq
+  have : type fun x x_1 : ULift.{u + 1, u} (Quotient.out o).α ↦ x < x_1 =
+      lift.{u + 1, u} (type fun x x' : (Quotient.out o).α ↦ x < x') := rfl
+  rw [this, type_lt]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean:1248]: This should be moved earlier in the file, near where `enumIso` is.
```lean 4
theorem type_Iio (o : Ordinal.{u}) : type (α := Iio o) (· < ·) = lift.{u + 1, u} o := by
  rw [←type_out o, ←lift_id.{u + 1} (type _), lift_type_eq.{u + 1, u, u + 1}]
  exact ⟨enumIso o.out.r⟩
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 21]
```diff
@@ -1213,6 +1216,42 @@ theorem enum_zero_eq_bot {o : Ordinal} (ho : 0 < o) :
...
+
+theorem relIso_nat_omega : Nonempty (((· < ·) : ℕ → ℕ → Prop)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean:1250]: We could give an explicit isomorphism instead. This would be placed near the end of `SetTheory.Ordinal.Arithmetic`.
```lean 4
def relIso_nat_omega : ℕ ≃o Iio ω where
  toFun n := ⟨n, nat_lt_omega n⟩
  invFun n := Classical.choose (lt_omega.1 n.2)
  left_inv n := by
    have h : ∃ m : ℕ, n = (m : Ordinal) := ⟨n, rfl⟩
    exact (Ordinal.natCast_inj.1 (Classical.choose_spec h)).symm
  right_inv n := Subtype.eq (Classical.choose_spec (lt_omega.1 n.2)).symm
  map_rel_iff' := @natCast_le
  ```

**Review by vihdzp — COMMENTED** [review]
I'm really glad we're getting work done on this part of the library. That being said, I think there's some important questions to be asked about your current API.

**Comment by vihdzp** [comment]
> @zeramorphic What's the practical benefit of using the topology definition? In theory it might give access to some API from mathlib, but in this case I don't see how anything beyond the very basic properties (like intersection of closed sets is closed) I already proved will ever be used when reasoning about these objects.

That's not the point, really. The issue is that we have two definitions for the same concept, and that's always annoying. The first thing to do would be to show the topological definitions are equivalent to your simpler order-theoretic characterizations, at which point we just use those.

Topologists do make use of the topology of ordinals; that's why the file exist. Us set theorists admittedly don't care too much about that, but if we can benefit their work through ours, that's a good thing.

File: Mathlib/SetTheory/Ordinal/Clubs.lean (hunk 18 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Clubs.lean]: For historical context. `Ordinal.sup` was originally `Ordinal.min`, with essentially the same definition. There's really no reason to have it anymore, it's just some technical debt no one's bothered to deal with.

File: Mathlib/SetTheory/Ordinal/Club.lean [hunk 22]
```diff
@@ -0,0 +1,263 @@
...
+noncomputable section
+
+open Classical Cardinal Set Order
+
+universe u v
+
+namespace Ordinal
+
+/-- A set of ordinals is unbounded in an ordinal if it is an unbounded subset of it. -/
+def IsUnbounded (S : Set Ordinal) (o : Ordinal) : Prop :=
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Club.lean:34]: I tried that in a previous commit, but as I wrote [here](https://github.com/leanprover-community/mathlib4/pull/14060#issuecomment-2254207978), it was harder to work with and I don't think it's the right way to do things.

File: Mathlib/SetTheory/Ordinal/Club.lean [hunk 23]
```diff
@@ -0,0 +1,263 @@
...
+
+/-!
+# Club and stationary sets
+
+This file sets up the basic theory of clubs (closed and unbounded sets) and stationary sets.
+
+## Main definitions
+
+* `Ordinal.IsClosed`: A set of ordinals `S` is closed in `o` if `S ⊆ Iio o`
+  and `S` contains every `x < o` such that `x.IsAcc S`.
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Club.lean:16]: Alright I'll stop being stubborn and use the topological definition. To be clear, if we're sticking with `Set Ordinal` and not using `Set (Iio i)` (which I wrote about below), should the definition be that a set of ordinals is closed in `o` if its coercion to `Set (Iio o)` is closed in the order on `Iio o`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 24]
```diff
@@ -2637,6 +2637,21 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+def relIso_nat_omega : ℕ ≃o Iio ω where
+  toFun n := ⟨n, nat_lt_omega n⟩
+  invFun n := Classical.choose (lt_omega.1 n.2)
+  left_inv n := by
+    have h : ∃ m : ℕ, n = (m : Ordinal) := ⟨n, rfl⟩
+    exact (Ordinal.natCast_inj.1 (Classical.choose_spec h)).symm
+  right_inv n := Subtype.eq (Classical.choose_spec (lt_omega.1 n.2)).symm
+  map_rel_iff' := @natCast_le
+
+theorem relIso_nat_omega.symm_eq {o : Ordinal} (h : o < ω) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2649]: Isn't this just [`Equiv.symm_apply_apply`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Defs.html#Equiv.symm_apply_apply)?

File: Mathlib/SetTheory/Ordinal/Club.lean [hunk 25]
```diff
@@ -0,0 +1,263 @@
...
+  rw [← hq'] at fltq
+  rcases lift_down fltq.le with ⟨fUdown, fUlift⟩
+  use fUdown
+  constructor
+  · simp_all only [lift_inj, mem_inter_iff, f]
+  · constructor
+    exact lift_lt.mp <| fUlift ▸ (this.1)
+    exact lift_lt.mp <| hq' ▸ (fUlift ▸ this).2
+
+theorem strictMono_of_succ_lt_omega (f : Π p < ω, Iio o)
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Club.lean:124]: I changed the proof to use `relIso_nat_omega`, but I do want to keep this one with `Π i < ω, α` because there are (and will be more) theorems about such sequences with length `δ` for a limit ordinal `δ`.

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 26]
```diff
@@ -413,6 +413,9 @@ theorem eq_zero_or_pos : ∀ a : Ordinal, a = 0 ∨ 0 < a :=
   eq_bot_or_bot_lt
 #align ordinal.eq_zero_or_pos Ordinal.eq_zero_or_pos
 
+theorem pos_of_gt {o p : Ordinal} (h : p < o) : 0 < o :=
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: Ah... I did this but it's causing build errors in some files that use `pos_of_gt`, which don't show up for me locally. Sorry, I'm not sure how to deal with this, what should I do here?

[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: Don't remove the existing theorem, instead make a new one `pos_of_gt'`. Since this is a change whose relevancy spans the entire library, it's better to put it in a separate PR.

File: Mathlib/SetTheory/Ordinal/Club.lean (hunk 22 above)
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Club.lean:34]: I strongly disagree. If `Iio o` is harder to work with, then we're missing some important API. You should be able to take the supremum of a family indexed by it using `Ordinal.bsup` (which thinking about it, should probably have its type signature changed to reflect that).

File: Mathlib/SetTheory/Ordinal/Club.lean (hunk 23 above)
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Club.lean:16]: We should be using `Set (Iio)` though, see my comment there.

File: Mathlib/SetTheory/Ordinal/Club.lean (hunk 22 above)
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Club.lean:34]: Actually, we should probably phase both of those out in favor of the common notation for conditionally complete lattices. See here: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Ordinal.20technical.20debt

In the meanwhile, I recommend you stick to `bsup`.

File: .vscode/settings.json [hunk 27]
```diff
@@ -21,4 +21,4 @@
     "**/.elan/**": true,
     "**/.lake/**": true
   }
-}
+}
```
Comment (dupuisf) [inline .vscode/settings.json:24]: Can you make sure this file doesn't get changed?

**Comment by dupuisf** [comment]
To proceed further with this PR, can you make sure that all the outstanding comments by reviewers have been resolved (one way or another)? If a reviewer comment has been dealt with or is no longer relevant, you can click on "Resolve conversation" to make this clear. If you are currently working on the PR and feel that the PR is not ready for review yet, you can label it as "WIP" (i.e. work in progress). Also, feel free to ask for help on Zulip at any time!

**Comment by vihdzp** [comment]
This PR has clearly amassed a pretty large line count in both content and discussion, so I think it'd be good to split off the less controversial changes, such as `pos_of_gt'` and bounded recursion. You can even make an initial PR defining `IsClosed` and `IsAcc`, and then follow that up with this PR defining club sets.

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 28]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
     exact le_bsup.{u, u} _ _ (ha.2 _ hba)
 #align ordinal.enum_ord_is_normal_iff_is_closed Ordinal.enumOrd_isNormal_iff_isClosed
 
+open Set Filter
+
+/-- A positive ordinal is an accumulation point of a set of ordinals if there
+are elements in the set arbitrarily close to the ordinal from below. -/
+def IsAcc (o : Ordinal) (S : Set Ordinal) : Prop :=
+  o ≠ 0 ∧ ∀ p < o, ∃ s ∈ S, p < s ∧ s < o
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:235]: You can write this as
```suggestion
  o ≠ 0 ∧ ∀ p < o, (S ∩ Set.Ioo p o).Nonempty
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 29]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+
+/-- A set of ordinals is closed in an ordinal if it contains all of
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:237]: I don't like the use of "in an ordinal". This phrasing makes sense in pen-and-paper mathematics where you treat ordinals as sets, but that's not quite what we're doing here. Maybe "below an ordinal" instead?

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 30]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
     exact le_bsup.{u, u} _ _ (ha.2 _ hba)
 #align ordinal.enum_ord_is_normal_iff_is_closed Ordinal.enumOrd_isNormal_iff_isClosed
 
+open Set Filter
+
+/-- A positive ordinal is an accumulation point of a set of ordinals if there
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:232]:
```suggestion
/-- An ordinal is an accumulation point of a set of ordinals if it is positive and there
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 31]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+    {p : Ordinal} (hp : p < o) : (U ∩ Ioo p o).Nonempty := by
+  rcases hU.2 p hp with ⟨q, hq⟩
+  exact ⟨q, hq.1, hq.2.1, hq.2.2⟩
+
+theorem isClosed_zero (S : Set Ordinal) : IsClosed S 0 := fun _ h ↦
+  False.elim <| (Ordinal.zero_le _).not_lt h
+
+theorem isAcc_of_accPt {o p : Ordinal} (A : Set Ordinal) (hpos : p ≠ 0) (hp : p < o)
+    (h : AccPt ⟨p, hp⟩ (𝓟 {x : Iio o | x.1 ∈ A})) : IsAcc p A := by
+  use hpos
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:260]: You can remove the `hpos` hypothesis by proving `not_accPt_zero` earlier.

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 32]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+
+theorem IsAcc.inter_Ioo_nonempty {o : Ordinal} {U : Set Ordinal} (hU : o.IsAcc U)
+    {p : Ordinal} (hp : p < o) : (U ∩ Ioo p o).Nonempty := by
+  rcases hU.2 p hp with ⟨q, hq⟩
+  exact ⟨q, hq.1, hq.2.1, hq.2.2⟩
+
+theorem isClosed_zero (S : Set Ordinal) : IsClosed S 0 := fun _ h ↦
+  False.elim <| (Ordinal.zero_le _).not_lt h
+
+theorem isAcc_of_accPt {o p : Ordinal} (A : Set Ordinal) (hpos : p ≠ 0) (hp : p < o)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:258]:
```suggestion
theorem AccPt.IsAcc {o p : Ordinal} (A : Set Ordinal) (hpos : p ≠ 0) (hp : p < o)
```
properly namespaced if needed.

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 33]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
     exact le_bsup.{u, u} _ _ (ha.2 _ hba)
 #align ordinal.enum_ord_is_normal_iff_is_closed Ordinal.enumOrd_isNormal_iff_isClosed
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean]: We got rid of `#align` ages ago, can you merge master?

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 34]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+    exact this.lt_or_eq.resolve_right <| Subtype.coe_ne_coe.mpr rnep
+  · let I : Set (Iio o) := Ioo ⟨q, qltp.trans hp⟩ ⟨p + 1,
+      (succ_le_of_lt hp).lt_or_eq.resolve_right h'⟩
+    have Inh : I ∈ nhds ⟨p, hp⟩ := IsOpen.mem_nhds isOpen_Ioo ⟨qltp, lt_add_one p⟩
+    rcases h I Inh with ⟨r, ⟨rmemI, rmemA⟩, rnep⟩
+    use r, rmemA, rmemI.1
+    have : r.1 ≤ p := lt_succ_iff.mp rmemI.2
+    exact this.lt_or_eq.resolve_right <| Subtype.coe_ne_coe.mpr rnep
+
+theorem accPt_of_isAcc {o p : Ordinal} (A : Set Ordinal) (hp : p < o)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:278]:
```suggestion
theorem IsAcc.AccPt {o p : Ordinal} (A : Set Ordinal) (hp : p < o)
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 35]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+    (h : IsAcc p A) : AccPt ⟨p, hp⟩ (𝓟 {x : Iio o | x.1 ∈ A}) := by
+  rw [accPt_iff_nhds]
+  intro u hu
+  have lb := exists_Ioc_subset_of_mem_nhds hu ⟨⟨0, pos_of_gt' hp⟩,
+    (Ordinal.zero_le p).lt_or_eq.resolve_right h.1.symm⟩
+  rcases lb with ⟨a, pmem, hi⟩
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:284]:
```suggestion
  obtain ⟨a, pmem, hi⟩ := exists_Ioc_subset_of_mem_nhds hu ⟨⟨0, pos_of_gt' hp⟩,
    (Ordinal.zero_le p).lt_or_eq.resolve_right h.1.symm⟩
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 36]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+  rcases h.2 a pmem with ⟨x, hx⟩
+  use ⟨x, hx.2.2.trans hp⟩
+  exact ⟨⟨hi ⟨hx.2.1, hx.2.2.le⟩, hx.1⟩, fun h ↦ hx.2.2.ne <| Subtype.mk_eq_mk.mp h⟩
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:287]: You can combine these two if you want.

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 37]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+  use hpos
+  rw [accPt_iff_nhds] at h
+  intro q qltp
+  by_cases h' : Order.succ p = o
+  · let I : Set (Iio o) := Ioi ⟨q, qltp.trans hp⟩
+    have Inh : I ∈ nhds ⟨p, hp⟩ := IsOpen.mem_nhds isOpen_Ioi qltp
+    rcases h I Inh with ⟨r, ⟨rmemI, rmemA⟩, rnep⟩
+    use r, rmemA, rmemI
+    have : r ≤ p := Order.lt_succ_iff.mp (h' ▸ r.2)
+    exact this.lt_or_eq.resolve_right <| Subtype.coe_ne_coe.mpr rnep
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:269]: If you move the `have` block one line earlier, you can combine `use` and `exact` into a single `exact`.

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 38]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+  rcases h I this with ⟨x, ⟨hx, _⟩, xnz⟩
+  exact xnz (SetCoe.ext (lt_one_iff_zero.mp hx))
+  · have := (not_lt_iff_eq_or_lt.mp h').resolve_right fun h ↦
+      ho <| Ordinal.lt_one_iff_zero.mp h
+    rcases h Set.univ univ_mem with ⟨x, _, hx⟩
+    exact hx <| SetCoe.ext <| Ordinal.lt_one_iff_zero.mp (this ▸ x.2)
+
+theorem isClosed_iff {o : Ordinal} (A : Set Ordinal) :
+    IsClosed A o ↔ _root_.IsClosed {x : Iio o | x.1 ∈ A} := by
+  by_cases ho : o = 0
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:310]:
```suggestion
  obtain rfl | ho : eq_or_ne o 0
```
This automatically rewrites `o = 0` in the first case.

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 39]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+  · rw [ho, eq_true (isClosed_zero A)]
+    have : {x : Iio o | x.1 ∈ A} = ∅ := by
+      apply eq_empty_iff_forall_not_mem.mpr
+      intro x
+      have := x.2
+      simp_rw [ho] at this
+      cases (Ordinal.zero_le _).not_lt this
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:317]:
```suggestion
    have : {x : Iio 0 | x.1 ∈ A} = ∅ := Set.eq_empty_of_isEmpty _
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 40]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+    have : _root_.IsClosed {x : Iio o | x.1 ∈ A} := by
+      rw [this]
+      exact isClosed_empty
+    have := ho ▸ (eq_true this)
+    rw [this]
+  rw [isClosed_iff_clusterPt]
+  constructor
+  · intro h
+    intro r hr
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:326]:
```suggestion
  · intro h r hr
```

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 41]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+    change r.1 ∈ A
+    match clusterPt_principal hr with
+    | .inl h' => exact h'
+    | .inr h' =>
+      have rnz : r.1 ≠ 0 := fun h ↦ by
+        have := not_accPt_zero ho {x : Iio o | x.1 ∈ A}
+        simp_rw [← h] at this
+        exact this h'
+      have := (isAcc_iff_accPt A r.2 rnz)
+      exact h r.1 r.2 (this.mpr h')
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:336]: You can merge this into a single `exact`

File: Mathlib/SetTheory/Ordinal/Topology.lean [hunk 42]
```diff
@@ -234,4 +234,126 @@ theorem enumOrd_isNormal_iff_isClosed (hs : s.Unbounded (· < ·)) :
...
+  · intro h p plto hp
+    apply h ⟨p, plto⟩
+    have := (isAcc_iff_accPt A plto hp.1).mp hp
+    apply ((acc_iff_cluster (⟨p, plto⟩ : Iio o) _).mp this).mono inf_le_right
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Topology.lean:340]: Same here.

**Comment by vihdzp** [comment]
Well, a lot has changed in this past month or so. Can you merge master and update the PR description?

**Comment by YnirPaz** [comment]
> Well, a lot has changed in this past month or so. Can you merge master and update the PR description?

I kind of forgot about this PR and was planning on PRing all of this gradually. But seeing how long it takes for things to get merged, I'll update this one and maybe get it all done at once.

btw I moved and updated some related old code [here](https://github.com/YnirPaz/InfiniteCombinatorics) and am planning on adding to it soon.

File: Mathlib/Algebra/Order/Monoid/Canonical/Defs.lean [hunk 43]
```diff
@@ -175,6 +175,9 @@ end CanonicallyOrderedCommMonoid
 theorem pos_of_gt {M : Type*} [CanonicallyOrderedAddCommMonoid M] {n m : M} (h : n < m) : 0 < m :=
   lt_of_le_of_lt (zero_le _) h
 
+theorem pos_of_gt' {M : Type*} [Preorder M] [OrderBot M] {n m : M} (h : n < m) : ⊥ < m :=
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Monoid/Canonical/Defs.lean:178]: I think this was already discussed, but this theorem already exists as `bot_lt_of_lt`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 44]
```diff
@@ -2434,6 +2434,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+  right_inv n := Subtype.eq (Classical.choose_spec (lt_omega0.1 n.2)).symm
+  map_rel_iff' := fun {n m} ↦ by simp only [coe_fn_mk, Subtype.mk_le_mk, Nat.cast_le]
+
+theorem relIso_nat_omega.symm_eq {o : Ordinal} (h : o < ω) :
+    relIso_nat_omega.symm ⟨o, h⟩ = o := by
+  rcases lt_omega0.mp h with ⟨n, rfl⟩
+  exact congrArg Nat.cast <| relIso_nat_omega.symm_apply_apply n
+
+theorem strictMono_of_succ_lt_omega {o : Ordinal} (f : Iio ω → Iio o)
+    (hf : ∀ i, f i < f ⟨succ i, isLimit_omega0.succ_lt i.2⟩) (i j) (h : i < j) : f i < f j := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2453]:
```suggestion
    (hf : ∀ i, f i < f ⟨succ i, isLimit_omega0.succ_lt i.2⟩) {i j} (h : i < j) : f i < f j := by
```

File: Mathlib/SetTheory/Ordinal/Club.lean [hunk 45]
```diff
@@ -0,0 +1,285 @@
...
+noncomputable section
+
+open Classical Cardinal Set Order Filter
+
+universe u v
+
+namespace Ordinal
+
+/-- A set of ordinals is a club below an ordinal if it is closed and unbounded in it. -/
+def IsClub (C : Set Ordinal) (o : Ordinal) : Prop :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Club.lean:35]: Question, does it make sense to have two notions of club sets? One for "club below an ordinal" and also a global one. An example for the latter might be the fixed points of a normal function.

On a similar note, does it make sense to define this for general linear/well orders with the order topology?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 46]
```diff
@@ -2434,6 +2434,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
     exact sup_eq_zero_iff.2 fun n => zero_mul (n : Ordinal)
   · exact (mul_isNormal ho).apply_omega0
 
+/-- The natural isomorphism between ℕ and the first ω ordinals. -/
+def relIso_nat_omega : ℕ ≃o Iio ω where
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2438]: This could be its own PR.

File: Mathlib/SetTheory/Ordinal/Club.lean (hunk 45 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Club.lean:35]: I assumed we'll just use "the pointwise lift is a club below the universal ordinal" directly for a proper club, but the more I think about it the more annoying that sounds. Things like "the restriction of a universal club at a limit point creates a club below that limit point" would need some universe hopping. So I guess the question is can a definition like this have enough API that we wouldn't have to deal with universes when using it. And I don't know (of course this wouldn't be in this PR anyways). You have experience with universe shenanigans, do you think this would make things more tidy?

I've never heard about clubs over non-wellorders and a quick search didn't yield anything. I don't know if people outside this field ever care a lot if their closed sets in some order topology are also unbounded, to the point that they satisfy many things arbitrary closed sets don't.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 46 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2466]: #19189

**Comment by YaelDillies** [comment]
You got the `- [ ] depends on:` syntax wrong, so the bot didn't pick up the dependency. I should have fixed it now
